US05359085
To 1200 ml of dimethylformamide (DMF) containing 3 moles of benzaldehyde and heated at 35° C., a mixed solution of 0.3 mole of sodium cyanide and 2400 ml of DMF was added dropwise in 30 minutes, and the reaction was carried out for further 30 minutes with stirring. To the reaction solution, a mixed solution of 2.25 moles of methyl vinyl ketone and 2400 ml of DMF was added dropwise in 30 minutes, and the reaction was carried out for further 1 hour. After the reaction, water was poured into the reaction solution, followed by extraction with chloroform. The obtained chloroform solution was washed with dilute sulfuric acid, saturated aqueous solution of sodium bicarbonate, and water in this order, and dried over anhydrous sodium sulfate. The solvent was removed by distillation. The resulting residue was distilled under reduced pressure to give a fraction of pale yellow liquid of 1-phenyl-1,4-pentanedione having a boiling point of 124°-127° C./0.15 mmHg (yield 40% ).

reactant | dimethylformamide | 1200 ml | CN(C=O)C | C3H7NO
reactant | benzaldehyde | 3 moles | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanide | 0.3 mole | [C-]#N.[Na+]
reactant | DMF | 2400 ml | CN(C=O)C | C3H7NO
reactant | methyl vinyl ketone | 2.25 moles | C(=C)C(=O)C | C4H6O
reactant | DMF | 2400 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-phenyl-1,4-pentanedione | yield 40% | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
